US08871269B2
Formulation BL (Oxytocin)—Conventional Encapsulation Method
PLGA polymer (MW 13,000, 180 mg) was dissolved in EtOAc (900 μL). Oxytocin acetate (20 mg) was dissolved in MeOH (100 μL) and added to the polymer solution yielding a milky suspension as the organic phase. The resulting organic phase was combined with a 1% PVA aqueous phase containing 5% EtOAc to provide an emulsion. The emulsion was collected directly into a 10 mM sodium phosphate (pH 8, 0° C., 150 mL) solvent extraction solution and stirred for four hours while warming to room temperature to extract EtOAc. Hardened microparticles were collected by filtration, washed with water, air dried and stored at 4° C. This provided formulation BL (143 mg, 71.5% yield) with a median particle size 44.0 μm. The core load (1.67%), encapsulation efficiency (16.7%) and in vitro burst (46.3%) were determined by RP-HPLC assay.

reactant | Oxytocin acetate | 20 mg | CC[C@H](C)[C@H]1C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N1)CC2=CC=C(C=C2)O)N)C(=O)N3CCC[C@H]3C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N)CC(=O)N)CCC(=O)N.CC(=O)O
solvent | EtOAc | 900 μL | CCOC(=O)C | C4H8O2
solvent | MeOH | 100 μL | CO | CH4O
product | Oxytocin | 71.5% yield | CC[C@H](C)[C@H]1C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N1)CC=2C=CC(=CC2)O)N)C(=O)N3CCC[C@H]3C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N)CC(=O)N)CCC(=O)N | C43H66N12O12S2
